US08686002B2
5-Chloro-3-(2-methoxybenzyl)quinolin-2-amine
The title compound was synthesized according to EXAMPLE 11 from 2-amino-6-chlorobenzaldehyde and 3-(2-methoxyphenyl)propionitrile.

reactant | 2-amino-6-chlorobenzaldehyde | NC1=C(C=O)C(=CC=C1)Cl | C7H6ClNO
reactant | 3-(2-methoxyphenyl)propionitrile | COC1=C(C=CC=C1)CCC#N | C10H11NO
product | 5-Chloro-3-(2-methoxybenzyl)quinolin-2-amine | ClC1=C2C=C(C(=NC2=CC=C1)N)CC1=C(C=CC=C1)OC | C17H15ClN2O
